US04780480
To a solution of 200 mg of 7-benzoylbenzofuran-5-ylacetic acid in 5 ml of methanol is added a 1 molar equivalent of potassium hydroxide in the form of a 0.1N solution, thus, yielding a solution containing potassium 7-benzoylbenzofuran-5-ylacetate. A solution of 60 mg of calcium carbonate dissolved in the minimum amount of 1N hydrochloric acid necessary to effect solution of the calcium carbonate is buffered with 150 mg of solid ammonium chloride followed by the addition of 5 ml of water. The thus obtained buffered calcium solution is then added to the solution of potassium 7-benzoylbenzofuran-5-ylacetate and the precipitate which forms is collected by filtration, washed with water and air dried to yield calcium 7-benzoylbenzofuran-5-ylacetate.

reactant | 7-benzoylbenzofuran-5-ylacetic acid | 200 mg | C(C1=CC=CC=C1)(=O)C1=CC(=CC=2C=COC21)CC(=O)O | C17H12O4
reactant | potassium hydroxide | [OH-].[K+]
reactant | potassium 7-benzoylbenzofuran-5-ylacetate | C(C1=CC=CC=C1)(=O)C1=CC(=CC=2C=COC21)CC(=O)[O-].[K+]
reactant | calcium carbonate | 60 mg | C([O-])([O-])=O.[Ca+2]
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | calcium | [Ca] | Ca
solvent | methanol | 5 ml | CO | CH4O
solvent | hydrochloric acid | 1N | Cl | ClH
solvent | water | 5 ml | O | H2O
product | calcium 7-benzoylbenzofuran-5-ylacetate | C(C1=CC=CC=C1)(=O)C1=CC(=CC=2C=COC21)CC(=O)[O-].[Ca+2].C(C2=CC=CC=C2)(=O)C2=CC(=CC=1C=COC12)CC(=O)[O-] | InChI=1S/2C17H12O4.Ca/c2*18-15(19)10-11-8-13-6-7-21-17(13)14(9-11)16(20)12-4-2-1-3-5-12;/h2*1-9H,10H2,(H,18,19);/q;;+2/p-2
